US07645752B2
Step 1: Preparation of 4-bromo-3-(phenylthio)-1H-indole:
A stirred solution of 4-bromo-1H-indole (4.69 g, 23.9 mmol) in ethanol (110 mL) was added thiophenol (2.46 mL, 23.9 mmol). A solution of potassium iodide (3.97 g, 24 mmol) and iodine (6.07 g, 24 mmol) dissolved in water (5 mL) and ethanol (5 mL) is added over 5 minutes and the reaction was heated at 45° C. for 12 hours. The brown reaction is concentrated in vacuo to a dark brown oil and diluted with ethyl acetate (250 mL). The organic layer is washed with water (80 mL×2), saturated Na2S2O3 (80 mL), and brine (80 mL), dried (MgSO4), filtered and concentrated in vacuo. Purification by flash chromatography (20-30% ethyl acetate/petroleum ether) gave the title compound as a white solid (7.24 g, 99.5%). Mp: 137-139° C. MS (ES−): 302 (M−H).

reactant | 4-bromo-1H-indole | 23.9 mmol, 4.69 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | thiophenol | 23.9 mmol, 2.46 mL | C1(=CC=CC=C1)S | C6H6S
reactant | potassium iodide | 24 mmol, 3.97 g | [I-].[K+]
reactant | iodine | 24 mmol, 6.07 g | II | I2
solvent | ethanol | 110 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-bromo-3-(phenylthio)-1H-indole | 7.24 g, 99.5% | BrC1=C2C(=CNC2=CC=C1)SC1=CC=CC=C1 | C14H10BrNS
